US09259470B2
Sodium hydride (44 mg, 1.10 mmol) was added to 1-[(1S)-1-(4-chloro-3-fluorophenyl)-2-hydroxyethyl]-4-[2-(tetrahydropyran-4-ylamino)pyrimidin-4-yl]pyridine-2-one (0.49 g, 1.10 mmol) in DMF (10 mL) at 0° C., which was left to stir at 0° C. In a separate vial, sodium iodide (0.17 g, 1.10 mmol) and chlorodimethyl sulfide (0.11 g, 1.10 mmol) were transferred, which was then added to the reaction mixture. The reaction mixture was stirred overnight at room temperature. The mixture was quenched carefully with water before diluting with ethyl acetate. The phases were separated. The organic phase was washed with saturated sodium bicarbonate, water, and followed by brine. The mixture was dried over sodium sulfate before removing the solvent to leave an oil. The oil was purified by CombiFlash (24 g column, 0-10% MeOH/DCM over 20 minutes) to furnish (S)-1-(1-(4-chloro-3-fluorophenyl)-2-((methylthio)methoxy)ethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (555 mg) as a solid (M+1=506).

reactant | Sodium hydride | 1.10 mmol, 44 mg | [H-].[Na+]
reactant | 1-[(1S)-1-(4-chloro-3-fluorophenyl)-2-hydroxyethyl]-4-[2-(tetrahydropyran-4-ylamino)pyrimidin-4-yl]pyridine-2-one | 1.10 mmol, 0.49 g | ClC1=C(C=C(C=C1)[C@@H](CO)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)F | C22H22ClFN4O3
reactant | sodium iodide | 1.10 mmol, 0.17 g | [I-].[Na+]
reactant | chlorodimethyl sulfide | 1.10 mmol, 0.11 g | CSCCl | C2H5ClS
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-1-(1-(4-chloro-3-fluorophenyl)-2-((methylthio)methoxy)ethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 555 mg | ClC1=C(C=C(C=C1)[C@@H](COCSC)N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)F | C24H26ClFN4O3S
